US05366987
Synthesis of 5-decyl-1H-tetrazole-1-acetic acid
When in the general procedure of Example 79 an appropriate amount of ethyl 5-decyl-1H-tetrazole-1-acetate was substituted for ethyl (±)-5-decyl-α-phenyl-2H-tetrazole-2-acetate, the title compound was obtained, mp 104°-106° C.

reactant | ethyl 5-decyl-1H-tetrazole-1-acetate | C(CCCCCCCCC)C1=NN=NN1CC(=O)OCC | C15H28N4O2
reactant | ethyl (±)-5-decyl-α-phenyl-2H-tetrazole-2-acetate | C(CCCCCCCCC)C=1N=NN(N1)C(C(=O)OCC)C1=CC=CC=C1 | C21H32N4O2
product | 5-decyl-1H-tetrazole-1-acetic acid | C(CCCCCCCCC)C1=NN=NN1CC(=O)O | C13H24N4O2
